US08044068B2
Synthesis of 1-((3R,4R)-3-amino-4-methoxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone
1-((3R,4R)-3-Methoxy-4-(tritylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.65 g) was dissolved in diethyl ether (5 mL), followed by addition of 5 M hydrochloric acid (5 mL), and the mixture was stirred at room temperature for 17 h. The layers were separated, and the aqueous layer was washed with diethyl ether, 1 M aqueous sodium hydroxide was added to make it basic, and the mixture was extracted with chloroform. The organic layer was dried with anhydrous magnesium sulfate, the desiccant was removed by filtration, and then the filtrate was concentrated under reduced pressure to obtain the title compound (0.35 g).

reactant | 1-((3R,4R)-3-Methoxy-4-(tritylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.65 g | CO[C@@H]1CN(C[C@H]1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C33H31F3N2O3
reactant | hydrochloric acid | 5 M, 5 mL | Cl | ClH
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 1-((3R,4R)-3-amino-4-methoxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.35 g | N[C@@H]1CN(C[C@H]1OC)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C14H17F3N2O3
